US07713994B2
4-Bromo-2-fluoro-5-methoxy-benzaldehyde
To a N2 purged flask is added TiCl4 (0.44 mL) followed by 2-Bromo-4-fluoro-1-methoxy-benzene (400 mg, 1.95 mmol). The stirred mixture is cooled in an ice water bath and treated dropwise with 1,1-dichloromethyl methyl ether (0.35 mL, 1.95 mmol). After stirring for 90 minutes, the resulting slurry is treated with CH2Cl2 (200 mL) and reaction is allowed to warm up to room temperature. After passing through a column, the title compound is isolated (220 mg, 48%). MS (ESI): 232.9 (M+1)+1.

reactant | 2-Bromo-4-fluoro-1-methoxy-benzene | 1.95 mmol, 400 mg | BrC1=C(C=CC(=C1)F)OC | C7H6BrFO
reactant | 1,1-dichloromethyl methyl ether | 1.95 mmol, 0.35 mL | COC(Cl)Cl | C2H4Cl2O
catalyst | TiCl4 | 0.44 mL | Cl[Ti](Cl)(Cl)Cl
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-fluoro-5-methoxy-benzaldehyde | BrC1=CC(=C(C=O)C=C1OC)F | C8H6BrFO2
